US05356911
5-Ethoxycarbonyl-3-methoxycarbonyl-2-oxo-4-phenyl-6-propyl-1,2,3,4-tetrahydropyridine
26.2 g (0.128 mol) of dimethyl benzylidenemalonate and 20.1 g (0.128 mol) of ethyl-3-amino-hex-2-en-oate are stirred at 140° C. for 3 days with a spatula tip full of sodium ethoxide. The mixture is chromatographed on silica gel using methylene chloride and crystallised from petroleum ether.

reactant | dimethyl benzylidenemalonate | 0.128 mol, 26.2 g | C(C1=CC=CC=C1)=C(C(=O)OC)C(=O)OC | C12H12O4
reactant | ethyl-3-amino-hex-2-en-oate | 0.128 mol, 20.1 g | C(C)OC(C=C(CCC)N)=O | C8H15NO2
reactant | sodium ethoxide | [O-]CC.[Na+]
product | 5-Ethoxycarbonyl-3-methoxycarbonyl-2-oxo-4-phenyl-6-propyl-1,2,3,4-tetrahydropyridine | C(C)OC(=O)C=1C(C(C(NC1CCC)=O)C(=O)OC)C1=CC=CC=C1 | C19H23NO5
